US05981559
Under ice-cooling, triethylamine (220 μl) was added to a mixture of 2-[3-(2-benzothiazolylmethoxy)benzoylamino]-4-[3-(4-chlorophenylsulfonyl)propyl]phenoxyacetic acid (400 mg, 0.62 mmol), glycine amide hydrochloride (86 mg), 1-hydroxybenzotriazole (125 mg), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (130 mg) and N,N-dimethylformamide (10 ml), and the mixture prepared was stirred at room temperature for 12 hours. Water and ethyl acetate were added to the reaction solution. The insoluble solid material formed was collected by filtration, washed with ethyl acetate, water, 1 N hydrochloric acid, water, ether, 1 N sodium hydroxide aqueous solution, water and ether in that order and then dried under reduced pressure. Acetonitrile (13 ml) was added to the resulting solid material, and the mixture was heated under reflux for 5 minutes with stirring and then cooled. The crystals formed were collected by filtration to give N-[[2-[3-(2-benzothiazolylmethoxy)benzoylamino]-4-[3-(4-chlorophenylsulfonyl)propyl]phenoxy]acetyl]glycine amide (170 mg, 0.24 mmol, 39%) as colorless crystals.

reactant | 2-[3-(2-benzothiazolylmethoxy)benzoylamino]-4-[3-(4-chlorophenylsulfonyl)propyl]phenoxyacetic acid | 0.62 mmol, 400 mg | S1C(=NC2=C1C=CC=C2)COC=2C=C(C(=O)NC1=C(OCC(=O)O)C=CC(=C1)CCCS(=O)(=O)C1=CC=C(C=C1)Cl)C=CC2 | C32H27ClN2O7S2
reactant | glycine amide hydrochloride | 86 mg | Cl.NCC(=O)N
reactant | 1-hydroxybenzotriazole | 125 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 130 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 220 μl | C(C)N(CC)CC | C6H15N
product | N-[[2-[3-(2-benzothiazolylmethoxy)benzoylamino]-4-[3-(4-chlorophenylsulfonyl)propyl]phenoxy]acetyl]glycine amide | 0.24 mmol, 170 mg, 39% | S1C(=NC2=C1C=CC=C2)COC=2C=C(C(=O)NC1=C(OCC(=O)NC(CN)=O)C=CC(=C1)CCCS(=O)(=O)C1=CC=C(C=C1)Cl)C=CC2 | C34H31ClN4O7S2
